US06020334
(S)-4-(4-Amidinobenzoylamino)acetyl-3-[3-(4-amidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid hydrochloride
In 5 ml of 0.5N hydrochloric acid was dissolved 1 g of (S)-4-(4-amidinobenzoylamino)acetyl-3-[3-(4-amidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid trifluoroacetate produced in Working Example 2. The solution was stirred for 5 minutes at 0° C., which was allowed to be adsorbed on a CHP-20 column. The column was washed with water until the eluate showed neutral pH. The column was then subjected to elution with 10% acetonitrile/water. Fractions of the eluate were combined and freeze-dried to afford 0.7 g of the titled compound as a colorless amorphous powdery product.

reactant | (S)-4-(4-amidinobenzoylamino)acetyl-3-[3-(4-amidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid trifluoroacetate | 1 g | FC(C(=O)O)(F)F.C(N)(=N)C1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)C(N)=N)=O)C=C1
reactant | hydrochloric acid | 0.5N, 5 ml | Cl | ClH
product | (S)-4-(4-Amidinobenzoylamino)acetyl-3-[3-(4-amidinobenzoylamino)propyl]-2-oxopiperazine-1-acetic acid hydrochloride | 0.7 g | Cl.C(N)(=N)C1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)C(N)=N)=O)C=C1 | InChI=1S/C27H32N8O6.ClH/c28-23(29)16-3-7-18(8-4-16)25(39)32-11-1-2-20-27(41)34(15-22(37)38)12-13-35(20)21(36)14-33-26(40)19-9-5-17(6-10-19)24(30)31;/h3-10,20H,1-2,11-15H2,(H3,28,29)(H3,30,31)(H,32,39)(H,33,40)(H,37,38);1H/t20-;/m0./s1
